US07427635B2
To a solution of (4-dimethylcarbamoyl-thiazol-2-yl)-carbamic acid tert-butyl ester (0.26 g, 0.95 mmol) in dichloromethane (10 mL) was added trifluoroacetic acid (10 mL, 130 mmol). The reaction mixture was stirred at room temperature for 2 hours, then concentrated under reduced pressure. Saturated aqueous sodium bicarbonate solution (50 mL) was added to neutralize the residue. The mixture was extracted with ethyl acetate (2×100 mL). The organic layers were separated, combined and dried over sodium sulfate, concentrated under reduced pressure and dried in vacuo to give crude 2-amino-thiazole-4-carboxylic acid dimethylamide as a yellow gum which was used without further purification (0.14 g, 86%).

reactant | (4-dimethylcarbamoyl-thiazol-2-yl)-carbamic acid tert-butyl ester | 0.95 mmol, 0.26 g | C(C)(C)(C)OC(NC=1SC=C(N1)C(N(C)C)=O)=O | C11H17N3O3S
reactant | trifluoroacetic acid | 130 mmol, 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-amino-thiazole-4-carboxylic acid dimethylamide | CN(C(=O)C=1N=C(SC1)N)C | C6H9N3OS
